US05723608
A. Ethyl 2,4-dioxo-4-(2,4,6-trimethylphenyl)butanoate
To a solution of 2', 4', 6'-trimethylacetophenone (15 g, 92.6 mmol) and diethyl oxalate (20 g, 139 mmol) in 500 mL of anhydrous toluene was cautiously added 7.4 g of NaH (60% dispersion in mineral oil). The reaction mixture was slowly heated to reflux under N2. It was refluxed for about 20 minutes, then cooled, poured into ice-cold aqueous HCl solution, and extracted with ether. The extracts were washed with brine, dried over Na2SO4, filtered through a short silica gel pad and concentrated to give 16.2 g of a red oil which was used in the next reaction without further purification.

reactant | 2', 4', 6'-trimethylacetophenone | 92.6 mmol, 15 g | CC1=C(C(=CC(=C1)C)C)C(C)=O | C11H14O
reactant | diethyl oxalate | 139 mmol, 20 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | NaH | 7.4 g | [H-].[Na+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,4-dioxo-4-(2,4,6-trimethylphenyl)butanoate | 16.2 g | O=C(C(=O)OCC)CC(C1=C(C=C(C=C1C)C)C)=O | C15H18O4
